US04075001
A mixture of 9.8 g of 5-amino-4-cyano-3-(diethylamino)isothiazole, 20 drops of dibutyltin diacetate, and about 15 ml of methyl isocyanate in 50 ml of dry tetrahydrofuran was heated under reflux for 21 hours, at which time thin-layer chromatographic analysis indicated reaction to be complete. The solution was concentrated under reduced pressure and the residue was recrystallized from ethanol to give 11.7 g of white 1-methyl-3-(4-cyano-3-(diethylamino)-5-isothiazolyl)urea, m.p. 182°-183°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-(diethylamino)isothiazole | 9.8 g | NC1=C(C(=NS1)N(CC)CC)C#N | C8H12N4S
reactant | methyl isocyanate | about 15 ml | CN=C=O | C2H3NO
catalyst | dibutyltin diacetate | 20 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-(4-cyano-3-(diethylamino)-5-isothiazolyl)urea | 11.7 g | CNC(=O)NC1=C(C(=NS1)N(CC)CC)C#N | C10H15N5OS
